US05153210
Methyl 5-[4-acetonylphenoxymethyl]furan-2-carboxylate, ethylene ketal (12.5 g) was hydrogenated at ambient temperature and pressure, in methanol, in the presence of 5% rhodium on alumina. The reaction mixture was filtered and evaporated to an oil which was purified by column chromatography on silica gel. Elution with chloroform gave methyl 5-[4-acetonylphenoxymethyl]tetrahydrofuran-2-carboxylate, ethylene ketal.

reactant | Methyl 5-[4-acetonylphenoxymethyl]furan-2-carboxylate | C(C(=O)C)C1=CC=C(OCC2=CC=C(O2)C(=O)OC)C=C1 | C16H16O5
solvent | methanol | CO | CH4O
catalyst | rhodium on alumina | [Rh] | Rh
product | methyl 5-[4-acetonylphenoxymethyl]tetrahydrofuran-2-carboxylate | C(C(=O)C)C1=CC=C(OCC2CCC(O2)C(=O)OC)C=C1 | C16H20O5
